US05238937
A mixture of 1.1 g of 1-amino-1,2-dihydropyridin-2-one and 3.1 g of 2,2,3-trimethyl-3,4-epoxy-6-cyanochroman is heated to the melting point and stirred at this temperature for 8 hours. The residue is purified by column chromatography (dichloromethane/ethyl acetate; silica gel). 2,2,3-Trimethyl-4-(1,2-dihydro-2-oxo-1-pyridyl-amino)-6-cyano-3-chromanol, m.p. 184°-187°, is obtained.

reactant | 1-amino-1,2-dihydropyridin-2-one | 1.1 g | NN1C(C=CC=C1)=O | C5H6N2O
reactant | 2,2,3-trimethyl-3,4-epoxy-6-cyanochroman | 3.1 g | CC1(OC2=CC=C(C=C2C2C1(O2)C)C#N)C | C13H13NO2
product | 2,2,3-Trimethyl-4-(1,2-dihydro-2-oxo-1-pyridyl-amino)-6-cyano-3-chromanol | CC1(OC2=CC=C(C=C2C(C1(O)C)NN1C(C=CC=C1)=O)C#N)C | C18H19N3O3
